US08563512B2
F. (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)-hydrazino]-2-hydroxypropionic Acid Benzyl Ester
(R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxy-isoxazole-5-carbonyl)-hydrazino]-2-hydroxy-propionic acid ethyl ester (1.5 g, 3.3 mmol) was dissolved in benzyl alcohol (20 mL, 100 mmol) and 4 M HCl in dioxane (10 mL, 40 mmol) was added. The mixture was stirred at room temperature for 6 hours. The mixture was evaporated under reduced pressure and purified (Interchim C18 reverse phase chromatography column, 30-95% MeCN in water with 0.05% TFA). The clean fractions were combined, lyophilized and purified to yield the title compound (688 mg; purity 98%). MS m/z [M+H]+ calc'd for C27H24ClN3O6, 522.14. found 522.2.

reactant | (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxy-isoxazole-5-carbonyl)-hydrazino]-2-hydroxy-propionic acid ethyl ester | 3.3 mmol, 1.5 g | C(C)OC([C@@H](CN(NC(=O)C1=CC(=NO1)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O)=O | C22H22ClN3O6
reactant | benzyl alcohol | 100 mmol, 20 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
product | (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)-hydrazino]-2-hydroxypropionic Acid Benzyl Ester | 688 mg | C(C1=CC=CC=C1)OC([C@@H](CN(NC(=O)C1=CC(=NO1)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O)=O | C27H24ClN3O6
